* /Users/brian/Downloads/RX.asc
R1 N002 N001 10k
C1 N002 N001 2p
C2 N005 N002 3.3u
R2 N006 N005 10
R3 VCC N006 10k
R4 VCC N004 10k
R5 Vout N006 3.3k
C3 Vout N006 3.3p
R6 N001 0 10k
V1 VCC 0 9
V2 -VCC 0 -9
I1 VCC N001 PULSE(0 10u 2500u 5u 5u 250u 500u) AC 10u 0
R7 8 1 18k
XU3 0 0 N001 N002 VCC NC_01 1 8 LM359/NS
XU1 N004 0 N006 Vout VCC N003 1 8 LM359/NS
R8 VCC N003 3.3k
.tran 0 55000u 50000u
.lib LM359.cir
.backanno
.end


